US09422332B2
To a solution of 6-fluoro-3,4-dihydro-1H-isoquinoline-1,2-dicarboxylic acid 2-tert-butyl ester (0.37 g, 1.25 mmol, Eq: 1.00) and 2,6-difluoroaniline (194 mg, 162 μl, 1.5 mmol, Eq: 1.2) in Pyridine (7 mL) at 0° C. was added phosphorus oxychloride (288 mg, 175 μl, 1.88 mmol, Eq: 1.5). The reaction was warmed to RT, stirred for 18 h, diluted with water and extracted with EtOAc. The combined organics were washed with 1 N HCl, water, brine, dried with Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography to afford 0.2181 g 1-(2,6-difluoro-phenylcarbamoyl)-6-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester as white foam. 42.8% MS m/z 428.9 (M+H)

reactant | 6-fluoro-3,4-dihydro-1H-isoquinoline-1,2-dicarboxylic acid 2-tert-butyl ester | 1.25 mmol, 0.37 g | C(C)(C)(C)OC(=O)N1C(C2=CC=C(C=C2CC1)F)C(=O)O | C15H18FNO4
reactant | 2,6-difluoroaniline | 1.5 mmol, 162 μl, 194 mg | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | phosphorus oxychloride | 1.88 mmol, 175 μl, 288 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1-(2,6-difluoro-phenylcarbamoyl)-6-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.2181 g | C(C)(C)(C)OC(=O)N1C(C2=CC=C(C=C2CC1)F)C(NC1=C(C=CC=C1F)F)=O | C21H21F3N2O3
